US09376450B2
The mixture of tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate (4.0 g, 12.9 mmol) in HCl/MeOH (20 mL) was stirred at room temperature for 1 hour. Then it was concentrated to give 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,2,3,6-tetrahydro-pyridine hydyochloride (2.9 g, 11.8 mmol, yield: 91.4%) which was used in the next step without further purification. ESI-MS (M+1): 210 calc. for C11H20BNO2 209.

reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 12.9 mmol, 4.0 g | CC1(OB(OC1(C)C)C1=CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
solvent | HCl MeOH | 20 mL | Cl.CO
product | 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,2,3,6-tetrahydro-pyridine | yield: 91.4% | CC1(OB(OC1(C)C)C=1CCNCC1)C | C11H20BNO2
